US07202253B2
(2-chloro-quinazolin-4-yl)-(1-phenyl-cyclohexylmethyl)-amine (0.052 g; 0.15 mmol) was treated with 1 mL of a 2 M solution of ethylamine in tetrahydrofuran. The reaction vessel was tightly sealed and the reaction mixture was heated at 60° C. for 24 h. The volatile components were removed under vacuum and the crude residue was purified directly be preparative HPLC to give 0.020 g of N2-ethyl-N4-(1-phenyl-cyclohexylmethyl)-quinazoline-2,4-diamine as a white solid. LCMS m/z=361.2 (M+H)+

reactant | (2-chloro-quinazolin-4-yl)-(1-phenyl-cyclohexylmethyl)-amine | 0.15 mmol, 0.052 g | ClC1=NC2=CC=CC=C2C(=N1)NCC1(CCCCC1)C1=CC=CC=C1 | C21H22ClN3
reactant | ethylamine | C(C)N | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N2-ethyl-N4-(1-phenyl-cyclohexylmethyl)-quinazoline-2,4-diamine | 0.020 g | C(C)NC1=NC2=CC=CC=C2C(=N1)NCC1(CCCCC1)C1=CC=CC=C1 | C23H28N4
